US07943651B2
Intermediate 24: Methyl 3-(4-{[(2R)-4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzoate
(2R)-2-{2-[5-Fluoro-2-(methyloxy)phenyl]-2-methylpropyl}-2-(trifluoromethyl)oxirane (530 mg, 1.81 mmol) was added to acetonitrile (2.5 mL), followed by the addition of methyl 3-(4-amino-6-methyl-1H-indazol-1-yl)benzoate (590 mg, 2.1 mmol) and yttrium trifluoromethanesulfonate (197 mg, 0.37 mmol) at room temperature under a nitrogen atmosphere. The resulting mixture was then heated to reflux (83° C.) overnight, then allowed to cool down to room temperature and diluted with ethyl acetate (7 mL). The mixture was washed successively with saturated sodium bicarbonate (10 mL) and water (10 mL), dried and concentrated. The residue was then purified by column chromatography (10% ethyl acetate in cyclohexane) to give, after concentration, the title compound (540 mg).

reactant | (2R)-2-{2-[5-Fluoro-2-(methyloxy)phenyl]-2-methylpropyl}-2-(trifluoromethyl)oxirane | 1.81 mmol, 530 mg | FC=1C=CC(=C(C1)C(C[C@]1(OC1)C(F)(F)F)(C)C)OC | C14H16F4O2
reactant | acetonitrile | 2.5 mL | C(C)#N | C2H3N
reactant | methyl 3-(4-amino-6-methyl-1H-indazol-1-yl)benzoate | 2.1 mmol, 590 mg | NC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C(=O)OC)C=CC1 | C16H15N3O2
solvent | ethyl acetate | 7 mL | C(C)(=O)OCC | C4H8O2
catalyst | yttrium trifluoromethanesulfonate | 0.37 mmol, 197 mg | FC(S(=O)(=O)[O-])(F)F.[Y+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
product | Methyl 3-(4-{[(2R)-4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzoate | FC=1C=CC(=C(C1)C(C[C@@](CNC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C(=O)OC)C=CC1)(C(F)(F)F)O)(C)C)OC | C30H31F4N3O4
